### PR TITLE
[Merged by Bors] - feat: solutions to $C^n$ vector fields are $C^n$ in time

### PR DESCRIPTION
**Pull request by winstonyin**
I prove that solutions to $C^n$ vector fields are also $C^n$ in time, where $n ≤ \infty$.

This PR continues the work from #21286.

---

- [x] depends on: #26392 [technically only depends on #26382 but I'm writing these as incremental PRs]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by winstonyin** [comment]
## Comments from Original PR #21286

*This section contains 2 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-01-31 09:58 UTC](https://github.com/leanprover-community/mathlib4/pull/21286#issuecomment-2626805797)):
messageFile.md

---

**@github-actions** ([2025-01-31 10:03 UTC](https://github.com/leanprover-community/mathlib4/pull/21286#issuecomment-2626815515)):
### PR summary [dba6f7ea44](https://github.com/leanprover-community/mathlib4/pull/21286/commits/dba6f7ea44c9250581464a604fc547599b537c24)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ compProj`
`+ compProj_apply`
`+ compProj_mem_closedBall`
`+ compProj_of_mem`
`+ compProj_val`
`+ contDiffOn_comp`
`+ contDiffOn_enat_Icc_of_hasDerivWithinAt`
`+ contDiffOn_enat_picard_Icc`
`+ contDiffOn_nat_picard_Icc`
`+ continuousOn_comp`
`+ continuousOn_comp_compProj`
`+ continuousOn_uncurry`
`+ continuous_compProj`
`+ dist_comp_iterate_next_le`
`+ dist_iterate_iterate_next_le_of_lipschitzWith`
`+ dist_iterate_next_iterate_next_le`
`+ dist_next_next`
`+ exists_contractingWith_iterate_next`
`+ exists_eq_hasDerivAt_Ioo_of_contDiffAt`
`+ exists_eq_hasDerivAt_Ioo_of_contDiffAt₀`
`+ exists_eq_hasDerivWithinAt`
`+ exists_eq_hasDerivWithinAt₀`
`+ exists_eq_picard_eq`
`+ exists_eventually_eq_hasDerivAt`
`+ exists_forall_closedBall_funSpace_dist_le_mul`
`+ exists_forall_mem_closedBall_eq_hasDerivWithinAt`
`+ exists_forall_mem_closedBall_eq_hasDerivWithinAt_continuousOn`
`+ exists_forall_mem_closedBall_eq_hasDerivWithinAt_lipschitzOnWith`
`+ exists_isFixedPt_next`
`+ hasDerivWithinAt_picard_Icc`
`+ instance : CoeFun (FunSpace t₀ x₀ r L) fun _ ↦ Icc tmin tmax → E := ⟨fun α ↦ α.toFun⟩`
`+ instance : Inhabited (FunSpace t₀ x₀ r L)`
`+ instance : MetricSpace (FunSpace t₀ x₀ r L)`
`+ instance [CompleteSpace E] : CompleteSpace (FunSpace t₀ x₀ r L) := by`
`+ intervalIntegrable_comp_compProj`
`+ mabs_div_le_max_div`
`+ next_apply₀`
`+ norm_le_norm_div_add`
`+ of_contDiffAt_one`
`+ of_time_independent`
`+ picard`
`+ picard_apply`
`+ picard_apply₀`
`+ picard_eq_of_hasDerivAt`
`+ toContinuousMap_apply_eq_apply`
`- IsPicardLindelof.exists_forall_hasDerivWithinAt_Icc_eq`
`- IsPicardLindelof.norm_le₀`
`- PicardLindelof`
`- continuousOn`
`- continuous_proj`
`- continuous_vComp`
`- dist_apply_le_dist`
`- dist_le_of_forall`
`- dist_next_apply_le_of_le`
`- dist_t₀_le`
`- exists_contracting_iterate`
`- exists_fixed`
`- exists_forall_hasDerivAt_Ioo_eq_of_contDiff`
`- exists_forall_hasDerivAt_Ioo_eq_of_contDiffAt`
`- exists_isPicardLindelof_const_of_contDiffAt`
`- exists_solution`
`- for`
`- hasDerivWithinAt_next`
`- instance : CoeFun (FunSpace v) fun _ => Icc v.tMin v.tMax → E`
`- instance : CoeFun (PicardLindelof E) fun _ => ℝ → E → E`
`- instance : Inhabited (PicardLindelof E)`
`- instance : Inhabited v.FunSpace`
`- instance : MetricSpace v.FunSpace`
`- instance [CompleteSpace E] : CompleteSpace v.FunSpace := by`
`- intervalIntegrable_vComp`
`- lipschitz`
`- lipschitzOnWith`
`- map_t₀`
`- nonempty_Icc`
`- norm_le`
`- norm_vComp_le`
`- proj`
`- proj_coe`
`- proj_of_mem`
`- tDist`
`- tDist_nonneg`
`- tMin_le_tMax`
`- vComp`
`- vComp_apply_coe`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

**Comment by grunweg** [comment]
The dependent PR has been merged: if you merge master, I'll do my best to review this.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by grunweg** [comment]
It seems the diff still contains some of the changes of #26392. Can you merge master, please? Thanks!

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 1]
```diff
@@ -488,6 +488,113 @@ lemma hasDerivWithinAt_picard_Icc
...
+satisfies the integral equation. -/
+lemma picard_eq_of_hasDerivAt {t : ℝ}
+    (hf : ContinuousOn (uncurry f) ((uIcc t₀ t) ×ˢ u))
+    (hα : ∀ t' ∈ uIcc t₀ t, HasDerivWithinAt α (f t' (α t')) (uIcc t₀ t) t')
+    (hmap : MapsTo α (uIcc t₀ t) u) : -- need `Icc` for `uIcc_subset_Icc`
+    picard f t₀ (α t₀) α t = α t :=
+  calc
+    _ = α t₀ + (α t - α t₀) := by
+      rw [picard_apply, integral_eq_sub_of_hasDeriv_right]
+      · intro t' ht'
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: Would you like to fold this into the next line?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 2]
```diff
@@ -488,6 +488,113 @@ lemma hasDerivWithinAt_picard_Icc
...
+        exact hα t' ht' |>.continuousWithinAt
+      · intro t' ht'
+        apply HasDerivAt.hasDerivWithinAt
+        exact hα t' (Ioo_subset_Icc_self ht') |>.hasDerivAt <| Icc_mem_nhds ht'.1 ht'.2
+      · apply ContinuousOn.intervalIntegrable -- kind of repeated later
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: (I'm only reading this on github, so perhaps this is obvious otherwise:)
Is there a more general lemma you could factor out? A common generalisation?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 3]
```diff
@@ -488,6 +488,113 @@ lemma hasDerivWithinAt_picard_Icc
...
+      exact fun _ ht ↦ this ht |>.continuousWithinAt
+    | succ n hn =>
+      simp only [Nat.cast_add, Nat.cast_one] at *
+      rw [contDiffOn_succ_iff_derivWithin <| uniqueDiffOn_Icc hlt]
+      refine ⟨fun _ ht ↦ HasDerivWithinAt.differentiableWithinAt (this ht), by simp, ?_⟩
+      have hα' : ContDiffOn ℝ n α (Icc tmin tmax) := ContDiffOn.congr (hn hf.of_succ) heqon
+      apply contDiffOn_comp hf.of_succ hα' hmem |>.congr
+      intro t ht
+      apply HasDerivWithinAt.derivWithin (this ht) <| (uniqueDiffOn_Icc hlt).uniqueDiffWithinAt ht
+  · have : Icc tmin tmax = {t₀} := by -- missing lemma!
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: Can you extract this to a pre-requisite lemma, in some more elementary file?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 4]
```diff
@@ -488,6 +488,113 @@ lemma hasDerivWithinAt_picard_Icc
...
+      rw [not_lt] at hlt
+      rw [Icc_eq_singleton_iff]
+      exact ⟨le_antisymm ht₀.1 (le_trans ht₀.2 hlt), le_antisymm (le_trans hlt ht₀.1) ht₀.2⟩
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: Does something like `ht₀.2.trans hlt` work? (Same for the second argument; untested.)

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 5]
```diff
@@ -488,6 +488,113 @@ lemma hasDerivWithinAt_picard_Icc
...
+    (ht₀ : t₀ ∈ Icc tmin tmax) {n : ℕ∞}
+    (hf : ContDiffOn ℝ n (uncurry f) ((Icc tmin tmax) ×ˢ u))
+    (hα : ContinuousOn α (Icc tmin tmax))
+    (hmem : ∀ t ∈ Icc tmin tmax, α t ∈ u) (x₀ : E)
+    (heqon : ∀ t ∈ Icc tmin tmax, α t = picard f t₀ x₀ α t) :
+    ContDiffOn ℝ n (picard f t₀ x₀ α) (Icc tmin tmax) := by
+  induction n with
+  | top =>
+    rw [contDiffOn_infty] at *
+    intro k
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: Fold into the next line?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 6]
```diff
@@ -488,6 +488,113 @@ lemma hasDerivWithinAt_picard_Icc
...
+    exact contDiffOn_nat_picard_Icc ht₀ (hf k) hα hmem x₀ heqon
+  | coe n =>
+    simp only [WithTop.coe_natCast] at *
+    exact contDiffOn_nat_picard_Icc ht₀ hf hα hmem x₀ heqon
+
+/-- Solutions to ODEs defined by $C^n$ vector fields are also $C^n$. -/
+theorem contDiffOn_enat_Icc_of_hasDerivWithinAt
+    {n : ℕ∞}
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: More onto the previous line?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 7]
```diff
@@ -488,6 +488,113 @@ lemma hasDerivWithinAt_picard_Icc
...
+  · set t₀ := (tmin + tmax) / 2 with h
+    have ht₀ : t₀ ∈ Icc tmin tmax := ⟨by linarith, by linarith⟩
+    have : ∀ t ∈ Icc tmin tmax, α t = picard f t₀ (α t₀) α t := by
+      intro t ht
+      have : uIcc t₀ t ⊆ Icc tmin tmax := uIcc_subset_Icc ht₀ ht
+      rw [picard_eq_of_hasDerivAt (hf.continuousOn.mono _)]
+      · intro t' ht'
+        exact hα t' (this ht') |>.mono this
+      · apply hmem.mono_left this
+      · -- missing `left/right` lemmas for `prod_subset_prod_iff`
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: You upstreamed these now, right? If so, please use them :-)

**Review by grunweg — COMMENTED** [review]
Thanks for all your work on this PR saga! I have a first batch of minor comments.

File: Mathlib/Analysis/ODE/PicardLindelof.lean (hunk 3 above)
Comment (winstonyin) [reply Mathlib/Analysis/ODE/PicardLindelof.lean]: I managed to golf this.

File: Mathlib/Analysis/ODE/PicardLindelof.lean (hunk 2 above)
Comment (winstonyin) [reply Mathlib/Analysis/ODE/PicardLindelof.lean]: I added a lemma and golfed all of these repetitions.

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 8]
```diff
@@ -488,6 +488,95 @@ lemma hasDerivWithinAt_picard_Icc
...
+      hasDerivWithinAt_picard_Icc ht₀ hf.continuousOn hα hmem x₀ ht
+    induction n with
+    | zero =>
+      simp only [Nat.cast_zero, contDiffOn_zero] at *
+      exact HasDerivWithinAt.continuousOn this
+    | succ n hn =>
+      simp only [Nat.cast_add, Nat.cast_one] at *
+      rw [contDiffOn_succ_iff_derivWithin <| uniqueDiffOn_Icc hlt]
+      refine ⟨fun t ht ↦ HasDerivWithinAt.differentiableWithinAt (this t ht), by simp, ?_⟩
+      have hα' : ContDiffOn ℝ n α (Icc tmin tmax) := ContDiffOn.congr (hn hf.of_succ) heqon
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: What do you think about inlining this `have`?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 9]
```diff
@@ -488,6 +488,95 @@ lemma hasDerivWithinAt_picard_Icc
...
+      apply contDiffOn_comp hf.of_succ hα' hmem |>.congr
+      intro t ht
+      exact HasDerivWithinAt.derivWithin (this t ht) <| (uniqueDiffOn_Icc hlt).uniqueDiffWithinAt ht
+  · rw [(subsingleton_Icc_of_ge (not_lt.mp hlt)).eq_singleton_of_mem ht₀]
+    intro t ht
+    rw [eq_of_mem_singleton ht]
+    exact contDiffWithinAt_singleton
+
+/-- If the time-dependent vector field `f` is $C^n$ and the curve `α` is continuous, then
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:533]: What about \omega? Does a similar result hold there?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 10]
```diff
@@ -488,6 +488,95 @@ lemma hasDerivWithinAt_picard_Icc
...
+  · set t₀ := (tmin + tmax) / 2 with h
+    have ht₀ : t₀ ∈ Icc tmin tmax := ⟨by linarith, by linarith⟩
+    have : ∀ t ∈ Icc tmin tmax, α t = picard f t₀ (α t₀) α t := by
+      intro t ht
+      have : uIcc t₀ t ⊆ Icc tmin tmax := uIcc_subset_Icc ht₀ ht
+      rw [picard_eq_of_hasDerivAt (hf.continuousOn.mono (prod_subset_prod_left this))
+        (fun t' ht' ↦ hα t' (this ht') |>.mono this) (hmem.mono_left this)]
+    exact contDiffOn_enat_picard_Icc ht₀ hf (HasDerivWithinAt.continuousOn hα) hmem (α t₀) this
+      |>.congr this
+  · rw [not_lt, le_iff_lt_or_eq] at hlt -- missing lemma?
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: Can you either rephrase this comment to be understandable without context, or delete it?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 11]
```diff
@@ -488,6 +488,95 @@ lemma hasDerivWithinAt_picard_Icc
   · rw [uIcc_of_le (not_lt.mp h)]
     exact Icc_subset_Icc ht₀.1 ht.2
 
+/-- Converse of `hasDerivWithinAt_picard_Icc`: if `f` is the derivative along `α`, then `α`
+satisfies the integral equation. -/
+lemma picard_eq_of_hasDerivAt {t : ℝ}
+    (hf : ContinuousOn (uncurry f) ((uIcc t₀ t) ×ˢ u))
+    (hα : ∀ t' ∈ uIcc t₀ t, HasDerivWithinAt α (f t' (α t')) (uIcc t₀ t) t')
+    (hmap : MapsTo α (uIcc t₀ t) u) : -- need `Icc` for `uIcc_subset_Icc`
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/PicardLindelof.lean]: I don't understand the comment here.

**Review by grunweg — COMMENTED** [review]
Looks great, thanks! Four last comments.

File: Mathlib/Analysis/ODE/PicardLindelof.lean (hunk 11 above)
Comment (winstonyin) [reply Mathlib/Analysis/ODE/PicardLindelof.lean]: Must be a remnant from an old fleeting mental state.

File: Mathlib/Analysis/ODE/PicardLindelof.lean (hunk 9 above)
Comment (winstonyin) [reply Mathlib/Analysis/ODE/PicardLindelof.lean:533]: Yes, but it requires the theorem that integrals of analytic functions are analytic. Haven't found it in mathlib, so I've added a TODO for that.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by grunweg** [comment]
bors merge
